US05856518
(S)-7-Amino-5-azaspiro[2.4]heptane dihydrochloride
An autoclave was charged with 79 mg of (S)-7-[(S)-1-phenylethyl]amino-5-azaspiro[2.4]heptane, 37 mg of 20% palladium hydroxide, 2 ml of ethanol, 1 ml of water and 0.5 ml of concentrated hydrochloric acid, and the contents were stirred overnight at room temperature in an atmosphere of hydrogen (40 kgf/cm2). After completion of the reaction, the catalyst was removed by filtration and the resulting filtrate was concentrated under a reduced pressure to obtain 72 mg (82%) of the title compound in the form of colorless crystals. The thus obtained crystal compound was recrystallized from ethanol and diethyl ether and used as a sample for analyses.

reactant | (S)-7-[(S)-1-phenylethyl]amino-5-azaspiro[2.4]heptane | 79 mg | C1(=CC=CC=C1)[C@H](C)N[C@@H]1CNCC12CC2 | C14H20N2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 37 mg | [OH-].[Pd+2].[OH-]
solvent | water | 1 ml | O | H2O
product | (S)-7-Amino-5-azaspiro[2.4]heptane dihydrochloride | 72 mg, 82% | Cl.Cl.N[C@@H]1CNCC12CC2 | InChI=1S/C6H12N2.2ClH/c7-5-3-8-4-6(5)1-2-6;;/h5,8H,1-4,7H2;2*1H/t5-;;/m1../s1
